US07786165B2
3-(4-{[4-(diphenylmethoxy)-3-isobutylbenzyl]amino}-2-fluorophenyl)propanoic acid
To a solution of ethyl 3-(4-{[4-(diphenylmethoxy)-3-isobutylbenzyl]amino}-2-fluorophenyl)propanoate (0.50 g, 0.93 mmol) in a mixture of methanol (8 mL) and tetrahydrofuran (8 mL) was added an aqueous solution (4 mL) of 85% potassium hydroxide (0.20 g, 3.03 mmol), and the mixture was stirred at room temperature for 18 hr. Water was added to the reaction mixture, and the mixture was weakly acidified with 10% aqueous citric acid solution and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was recrystallized from ethyl acetate-diethyl ether to give the title compound (354 mg, yield 75%) as colorless prism crystals.

reactant | ethyl 3-(4-{[4-(diphenylmethoxy)-3-isobutylbenzyl]amino}-2-fluorophenyl)propanoate | 0.93 mmol, 0.50 g | C1(=CC=CC=C1)C(OC1=C(C=C(CNC2=CC(=C(C=C2)CCC(=O)OCC)F)C=C1)CC(C)C)C1=CC=CC=C1 | C35H38FNO3
reactant | potassium hydroxide | 3.03 mmol, 4 mL, 0.20 g | [OH-].[K+]
reactant | Water | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 8 mL | CO | CH4O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 3-(4-{[4-(diphenylmethoxy)-3-isobutylbenzyl]amino}-2-fluorophenyl)propanoic acid | 354 mg, yield 75% | C1(=CC=CC=C1)C(OC1=C(C=C(CNC2=CC(=C(C=C2)CCC(=O)O)F)C=C1)CC(C)C)C1=CC=CC=C1 | C33H34FNO3
